US08466167B2
Step 1: 4-iodo-N,N,3-trimethylaniline
To a solution of 4-iodo-3-methylaniline (commercially available) (1 eq), NaHCO3 (2.5 eq), and iodomethane (2.5 eq), in DMF ((0.2M) was stirred at ambient temperature overnight. The reaction mixture was then diluted with ethyl acetate and water. The two phases were separated, and the aqueous phase was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, and concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane and 4-iodo-N,N,3-trimethylaniline was isolated as a yellow solid.

reactant | 4-iodo-3-methylaniline | IC1=C(C=C(N)C=C1)C | C7H8IN
reactant | NaHCO3 | 2.5 eq | C(=O)(O)[O-].[Na+]
reactant | iodomethane | 2.5 eq | IC | CH3I
reactant | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-iodo-N,N,3-trimethylaniline | IC1=C(C=C(N(C)C)C=C1)C | C9H12IN
